datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"C[NH+]1CSCC1C(=O)[O:21][H:20].O=C(C(O)c1cccc([N+](=O)[O-])c1)[O-:10]>>C[NH+]1CSCC1C(=O)[O-:21].O=C(C(O)c1cccc([N+](=O)[O-])c1)[O:10][H:20] 10=20;20,21=21",
"CN(C)C([OH2+])[O-:10].Cc1cccc([N:21](S(=O)(=O)c2ccc(N)cc2)[H:20])[n+]1[O-]>>CN(C)C([OH2+])[O:10][H:20].Cc1cccc([N-:21]S(=O)(=O)c2ccc(N)cc2)[n+]1[O-] 10=20;20,21=21",
"CC(CCCc1ccccc1)[NH2:10].C[NH+](C)CCCNc1cc[n+:21]([H:20])c2c([N+](=O)[O-])cccc12>>CC(CCCc1ccccc1)[NH2+:10][H:20].C[NH+](C)CCCNc1cc[n:21]c2c([N+](=O)[O-])cccc12 10=20;20,21=21",
"CCCc1[nH]c2ccc(OCC)cc2[n+:21]1[H:20].CN(C)CCOCC[N:10](C)C>>CCCc1[nH]c2ccc(OCC)cc2[n:21]1.CN(C)CCOCC[N+:10](C)(C)[H:20] 10=20;20,21=21",
"CCCCCCCCCCC[NH2:10].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CCCCCCCCCCC[NH2+:10][H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC(=O)OCC[N+:21](C)(C)[H:20].c1nc(Cc2c[nH]c(Cc3nc(Cc4cnc[nH]4)c[nH]3)[n:10]2)c[nH]1>>CC(=O)OCC[N:21](C)C.c1nc(Cc2c[nH]c(Cc3nc(Cc4cnc[nH]4)c[nH]3)[n+:10]2[H:20])c[nH]1 10=20;20,21=21",
"CCc1c([O:21][H:20])ccc(C(C)C)c1C.CN1CCCCC1c1ccc[n:10]c1>>CCc1c([O-:21])ccc(C(C)C)c1C.CN1CCCCC1c1ccc[n+:10]([H:20])c1 10=20;20,21=21",
"C1CCc2n[n:10]c3c(c2CC1)CCCC3.N#CC(C#N)=C(C#N)[N:21](c1ccc(C(=O)O)cc1)[H:20]>>C1CCc2n[n+:10]([H:20])c3c(c2CC1)CCCC3.N#CC(C#N)=C(C#N)[N-:21]c1ccc(C(=O)O)cc1 10=20;20,21=21",
"COc1cccc(/C(c2ccccc2)=[NH+:21]\[H:20])c1.[O-]c1[nH+]cnc2c1[nH]c[n:10]2>>COc1cccc(C(c2ccccc2)=[NH:21])c1.[O-]c1[nH+]cnc2c1[nH]c[n+:10]2[H:20] 10=20;20,21=21",
"Cc1[nH]c2ccccc2c1C(=O)[O-:10].O=C1C=C(c2ccccc2)Oc2ccc([O:21][H:20])cc21>>Cc1[nH]c2ccccc2c1C(=O)[O:10][H:20].O=C1C=C(c2ccccc2)Oc2ccc([O-:21])cc21 10=20;20,21=21",
"CCCCCCCCCCCCC[NH:10]CCCCCCCCCCCCC.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CCCCCCCCCCCCC[NH+:10](CCCCCCCCCCCCC)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"CC(C)(C)[N+:21]1([H:20])NC2CCC1C21CC1.CN(C)c1ccc([N:10](C)C)cc1>>CC(C)(C)[N:21]1NC2CCC1C21CC1.CN(C)c1ccc([N+:10](C)(C)[H:20])cc1 10=20;20,21=21",
"CS/C(N)=[NH+:21]/[H:20].Cc1cc(-c2ccccc2)nn2cc[n:10]c12>>CSC(N)=[NH:21].Cc1cc(-c2ccccc2)nn2cc[n+:10]([H:20])c12 10=20;20,21=21",
"CC[N+:21](CC)(NC)[H:20].N#CSc1ccc([O-:10])cc1>>CC[N:21](CC)NC.N#CSc1ccc([O:10][H:20])cc1 10=20;20,21=21",
"CN(C)CCOCC[N:10](C)C.O=C1Nc2ccccc2[N:21]([H:20])C1=O>>CN(C)CCOCC[N+:10](C)(C)[H:20].O=C1Nc2ccccc2[N-:21]C1=O 10=20;20,21=21",
"CC(c1ccccc1)[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CC(c1ccccc1)[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"COCCCC[NH:10]c1ccccc1.C[C@@H]1C[NH2+][C@@H](C)C[NH+:21]1[H:20]>>COCCCC[NH+:10](c1ccccc1)[H:20].C[C@@H]1C[NH2+][C@@H](C)C[NH:21]1 10=20;20,21=21",
"Cc1cc(C)c([NH2+:21][H:20])cc1C[NH3+].Nc1cc[n:10]c2ccc3ncccc3c12>>Cc1cc(C)c([NH2:21])cc1C[NH3+].Nc1cc[n+:10]([H:20])c2ccc3ncccc3c12 10=20;20,21=21",
"O=[N+]([O-])c1ccc([O:21][H:20])c(C[NH+]2CCOCCOCCOCCOCC2)c1.c1ccc([O-:10])cc1>>O=[N+]([O-])c1ccc([O-:21])c(C[NH+]2CCOCCOCCOCCOCC2)c1.c1ccc([O:10][H:20])cc1 10=20;20,21=21",
"CC(C)N(Cc1ccccc1[O:21][H:20])C(C)C.CC[NH:10]CC(=O)c1ccc(O)cc1>>CC(C)N(Cc1ccccc1[O-:21])C(C)C.CC[NH+:10](CC(=O)c1ccc(O)cc1)[H:20] 10=20;20,21=21",
"CCCCCCCCCC[NH:10]Cc1ccc(C)cc1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CCCCCCCCCC[NH+:10](Cc1ccc(C)cc1)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"COCC1=C(C(=O)[O-:10])C2C=CC1C2.O=C(COc1ccc([N+](=O)[O-])cc1)[O:21][H:20]>>COCC1=C(C(=O)[O:10][H:20])C2C=CC1C2.O=C(COc1ccc([N+](=O)[O-])cc1)[O-:21] 10=20;20,21=21",
"Brc1nnn[n:21]1[H:20].COC(=O)CC[S-:10]>>Brc1nnn[n-:21]1.COC(=O)CC[S:10][H:20] 10=20;20,21=21",
"CCc1cn[n:10]c(C)c1.[S-]c1cnc2cncnc2[n+:21]1[H:20]>>CCc1cn[n+:10]([H:20])c(C)c1.[S-]c1cnc2cncnc2[n:21]1 10=20;20,21=21",
"C[C@H]1[C@@H](O)CC[C@@H](CCCCCCCC(=O)[O-])[NH:10]1.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>C[C@H]1[C@@H](O)CC[C@@H](CCCCCCCC(=O)[O-])[NH+:10]1[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"CCC[N:10](CCC)c1ccccc1.NC1=NS(=O)(=O)[N:21]([H:20])c2nc[nH]c21>>CCC[N+:10](CCC)(c1ccccc1)[H:20].NC1=NS(=O)(=O)[N-:21]c2nc[nH]c21 10=20;20,21=21",
"O=[N+]([O-])c1ccc2cc([O-:10])ccc2c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=[N+]([O-])c1ccc2cc([O:10][H:20])ccc2c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"c1c2c(cc3[nH]c([O:21][H:20])nc13)CCCC2.c1ccc(CC[NH2:10])cc1>>c1c2c(cc3[nH]c([O-:21])nc13)CCCC2.c1ccc(CC[NH2+:10][H:20])cc1 10=20;20,21=21",
"COC1=CC([C:21](C)([N+](=O)[O-])[H:20])=CC=C1.COCCSC(C)[O-:10]>>COC1=CC([C-:21](C)[N+](=O)[O-])=CC=C1.COCCSC(C)[O:10][H:20] 10=20;20,21=21",
"CN(C)[N:10](C)C.CN(C)c1cccc2c(S(=O)(=O)[N-]CC[N+:21](C)(C)[H:20])cccc12>>CN(C)[N+:10](C)(C)[H:20].CN(C)c1cccc2c(S(=O)(=O)[N-]CC[N:21](C)C)cccc12 10=20;20,21=21",
"Cc1ccc(CC[NH2+:21][H:20])cc1.O=S1(=O)N=C[N-]c2nc[n-:10]c21>>Cc1ccc(CC[NH2:21])cc1.O=S1(=O)N=C[N-]c2nc[n:10]([H:20])c21 10=20;20,21=21",
"Oc1ccc([O-:10])cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Oc1ccc([O:10][H:20])cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
